*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :2012M(0805)/ZLM(-25to85[deg])/1.10e-03[uF]/100[V]
* Murata P/N :GCM2199E2A112MA04
* Property : C = 1.10e-03[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1000[kHz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM2199E2A112MA04 Port1 Port2
C01 Port1 N01 1.13e-09
R01 Port1 N01 1.00e+10
L02 N01 N02 1.23e-10
R03 N02 N03 8.88e-02
C04 N03 N04 2.12e-07
R04 N03 N04 1.50e+01
C05 N04 N05 3.07e-07
R05 N04 N05 5.82e-01
C06 N05 N06 3.20e-07
R06 N05 N06 4.67e-02
L07 N06 N07 9.65e-11
R07 N06 N07 1.23e+00
C08 N07 N08 2.69e-08
L08 N07 N08 2.83e-12
R08 N07 N08 4.47e-02
C09 N08 N09 1.25e-09
L09 N08 N09 2.42e-11
R09 N08 N09 3.38e-01
C10 N09 N10 5.11e-12
L10 N09 N10 2.16e-10
R10 N09 N10 3.12e+01
C11 N10 N11 5.63e-12
L11 N10 N11 8.16e-11
R11 N10 N11 1.47e+01
C12 N11 Port2 2.37e-11
L12 N11 Port2 1.50e-11
R12 N11 Port2 9.74e+00
.ENDS GCM2199E2A112MA04
